US08247430B2
C-[1-(4-Nitro-phenyl)-cyclopropyl]-methylamine
The mixture of 1-(4-nitro-phenyl)-cyclopropanecarbonitrile (3.0 g, 15.9 mmol) and borane THF complex (1.0 M solution in THF, 32 ml, 32 mmol) in 50 ml of anhydrous THF was heated at reflux overnight. The mixture was cooled to RT, quenched with 2.5 ml of 50% AcOH aqueous solution, then partitioned between EtOAc and NaHCO3 (aq). The combined organic portions were washed with brine, dried with MgSO4, filtered, and condensed. The crude was purified by flash column chromatography (1 to 2% of MeOH in CH2Cl2). The titled compound was obtained as a light brownish solid. MS (ES+): 192.9. Calc'd for C10H12N2O2—192.2.

reactant | 1-(4-nitro-phenyl)-cyclopropanecarbonitrile | 15.9 mmol, 3.0 g | [N+](=O)([O-])C1=CC=C(C=C1)C1(CC1)C#N | C10H8N2O2
reactant | borane THF | 32 mmol, 1.0 M, 32 ml | B.C1CCOC1
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | C-[1-(4-Nitro-phenyl)-cyclopropyl]-methylamine | [N+](=O)([O-])C1=CC=C(C=C1)C1(CC1)CN | C10H12N2O2
